US08859814B2
2-chloro-6-methyl-N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-phenylpropyl}benzenesulfonamide
A mixture of 20 mg (0.077 mmol) of 1-(4-methylpiperidin-1-yl)-1-oxo-4-phenylbutan-2-amine, 0.11 mmol of 2-chloro-6-methylbenzene-sulfonyl chloride, and 0.2 mmol of Et3N in 1 mL of DCE is stirred for 16 h, and 240 mg of MP-carbonate and 170 mg of PS-trisamine are added. The mixture is shaken for 2 days, filtered, and concentrated to provide Example 54.

reactant | 1-(4-methylpiperidin-1-yl)-1-oxo-4-phenylbutan-2-amine | 0.077 mmol, 20 mg | CC1CCN(CC1)C(C(CCC1=CC=CC=C1)N)=O | C16H24N2O
reactant | 2-chloro-6-methylbenzene-sulfonyl chloride | 0.11 mmol | ClC1=C(C(=CC=C1)C)S(=O)(=O)Cl | C7H6Cl2O2S
reactant | Et3N | 0.2 mmol | CCN(CC)CC | C6H15N
reactant | carbonate | C([O-])([O-])=O
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | 2-chloro-6-methyl-N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-phenylpropyl}benzenesulfonamide | ClC1=C(C(=CC=C1)C)S(=O)(=O)NC(CCC1=CC=CC=C1)C(=O)N1CCC(CC1)C | C23H29ClN2O3S
